US06239151B1
A solution of 0.459 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in 5 ml of dimethylformamide was treated with 0.232 g of levulinic acid and 0.384 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride. The mixture was stirred overnight at room temperature and evaporated. The residue in ethyl acetate was washed with 5% aqueous citric acid solution, 5% aqueous sodium hydrogen carbonate solution, saturated sodium chloride solution, and then dried over anhydrous magnesium sulphate and evaporated to give 0.570 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(4-oxovaleryl)-2′-isobutyl-4-methylvalerohydrazide in the form of a white foam.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.459 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H41N3O4
reactant | levulinic acid | 0.232 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.384 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(4-oxovaleryl)-2′-isobutyl-4-methylvalerohydrazide | 0.570 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CC(C)C)C(CCC(C)=O)=O)CC(C)C | C31H47N3O6
